US07037908B2
5-Ethoxycarbonylmethyl-3-(2-methoxy-phenyl)-2-methyl-2,5-dihydro-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester.
To a stirred solution of N-hydroxy-2-methoxy-N-methyl-benzamidine (3.3 g) in ethanol (100%) was added diethyl acetylenedicarboxylate (3.2 mL, 20 mmol) and the resulting mixture stirred for 2 h at room temperature. The reaction mixture was then concentrated and purified on silica gel column using (3:7 to 2:3 ethyl acetate/hexanes) to afford the title product as a yellow oil (4.93 g, 70% yield). 1HNMR (500 MHz, CDCl3) δ: 7.56 (1H, dd, 7.6, 1.5 Hz), 7.44 (1H, td, J=7.6, 1.6 Hz), 6.99 (1H, t, 7.5 Hz), 6.95 (1H, d, J=8.2 Hz), 4.36–4.10 (4H, m), 3.85 (3H, s), 3.43 (1H, d, J=16.48 Hz), 3.05 (3H, s), 3.04 (1H, d, J=16.48 Hz), 1.32 (3H, t, J=7.02 Hz), 1.25 (3H, t, J=7.02 Hz). HRMS (ESI) calcd for C17H23N2O6 (M+H): 351.1556; found: 351.1553.

reactant | N-hydroxy-2-methoxy-N-methyl-benzamidine | 3.3 g | ON(C(C1=C(C=CC=C1)OC)=N)C | C9H12N2O2
reactant | diethyl acetylenedicarboxylate | 20 mmol, 3.2 mL | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
solvent | ethanol | C(C)O | C2H6O
product | 5-Ethoxycarbonylmethyl-3-(2-methoxy-phenyl)-2-methyl-2,5-dihydro-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester | 4.93 g, 70% yield | C(C)OC(=O)C1(N=C(N(O1)C)C1=C(C=CC=C1)OC)CC(=O)OCC | C17H22N2O6
